US06054448
iv) 3-Cyanomethylcyclobutanecarbonylchloride
To a stirred solution of 3-cyanomethylcyclobutane carboxylic acid (4.0 g, 28.8 mmol) in dichloromethane (50 ml) was added two drops of dimethylformamide followed by oxalyl chloride (12 ml). The mixture was stirred overnight at room temperature followed by removal of the solvent and excess reagent in vacuo. The resulting oil was dissolved in dry dichloromethane and the solvent evaporated to give the title compound as an oil.

reactant | 3-cyanomethylcyclobutane carboxylic acid | 28.8 mmol, 4.0 g | C(#N)CC1CC(C1)C(=O)O | C7H9NO2
reactant | oxalyl chloride | 12 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | two drops | CN(C=O)C | C3H7NO
product | 3-Cyanomethylcyclobutanecarbonylchloride | C(#N)CC1CC(C1)C(=O)Cl | C7H8ClNO
